US07612114B2
4-[4-(2-Diisopropylaminoethoxy)phenoxy]-6-(4-hydroxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 4-[3-methoxy-7-(4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-1-yloxy]phenol and (2-chloroethyl)diisopropylamine hydrochloride according to an analogous synthetic method to Preparation Example 40, diisopropyl{2-{4-[3-methoxy-7-(4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen 1-yloxy]phenoxy}ethyl}amine (408 mg) was used according to an analogous synthetic method to Example 779 described below to provide the title compound (86 mg).

reactant | 4-[3-methoxy-7-(4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-1-yloxy]phenol | COC=1C=C(C=2CC(CCC2C1)C1=CC=C(C=C1)OC)OC1=CC=C(C=C1)O | C24H24O4
reactant | (2-chloroethyl)diisopropylamine hydrochloride | Cl.ClCCN(C(C)C)C(C)C
reactant | diisopropyl{2-{4-[3-methoxy-7-(4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen 1-yloxy]phenoxy}ethyl}amine | 408 mg | C(C)(C)N(CCOC1=CC=C(C=C1)OC1=CC(=CC=2CCC(CC12)C1=CC=C(C=C1)OC)OC)C(C)C | C32H41NO4
product | 4-[4-(2-Diisopropylaminoethoxy)phenoxy]-6-(4-hydroxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol | 86 mg | C(C)(C)N(CCOC1=CC=C(OC2=CC(=CC=3CCC(CC23)C2=CC=C(C=C2)O)O)C=C1)C(C)C | C30H37NO4
